### PR TITLE
[Merged by Bors] - feat: more structural lemmas about root pairings

### PR DESCRIPTION
**Pull request by ocfnash**
The main results are:

- `RootPairing.Base.cartanMatrix_le_zero_of_ne` (off-diagonal entries of Cartan matrices are non-positive)
- `RootPairing.Base.root_sub_root_mem_of_mem_of_mem` (lemma 2.5 from Geck 2017)

---

The changes to the files `FaaDiBruno.lean` and `Bochner.lean` are a legacy of an attempt to add `simp` to the lemma [Set.insert_subset_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Insert.html#Set.insert_subset_iff) which I was originally intending to include with these changes.

In the end I decided such a change would have to happen separately but these two changes are minor proof improvements which I propose to keep.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean [hunk 1]
```diff
@@ -411,6 +411,11 @@ theorem mem_span_range_iff_exists_fun :
   simp only [Finsupp.mem_span_range_iff_exists_finsupp, Finsupp.equivFunOnFinite_apply]
   exact exists_congr fun c => Eq.congr_left <| Finsupp.sum_fintype _ _ fun i => zero_smul _ _
 
+omit [Fintype α] in
+theorem mem_span_image_iff_exists_fun {s : Set α} [Fintype s] :
+    x ∈ span R (v '' s) ↔ ∃ c : s → R, ∑ i, c i • v i = x := by
+  rw [← mem_span_range_iff_exists_fun, image_eq_range]
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean:417]: Hmm, I feel like the forward direction is what will be used most. But ideally also in cases where `s` isn't necessarily finite. So could you please modify the statement so that it says there is a `t : Finset \a` with `t \subset s` such that yaddayadda?

Comment (ocfnash) [reply Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean]: OK I've added a version with the sort of statement I think you had in mind (and which does not assume finiteness). I have retained what I had though: I claim that we will benefit from having both. As evidence I highlight that my use case is much more convenient with the original version.

Comment (ocfnash) [reply Mathlib/LinearAlgebra/Finsupp/LinearCombination.lean]: (I do however agree it is worth having the version you describe.)

**Review by jcommelin — COMMENTED** [review]
Thanks! LGTM

bors d+

**Comment by ocfnash** [comment]
bors merge

File: Mathlib/LinearAlgebra/FreeModule/PID.lean [hunk 2]
```diff
@@ -654,11 +654,3 @@ end Ideal
 end SmithNormal
 
 end PrincipalIdealDomain
-
-/-- A set of linearly independent vectors in a module `M` over a semiring `S` is also linearly
-independent over a subring `R` of `K`. -/
-theorem LinearIndependent.restrict_scalars_algebras {R S M ι : Type*} [CommSemiring R] [Semiring S]
-    [AddCommMonoid M] [Algebra R S] [Module R M] [Module S M] [IsScalarTower R S M]
-    (hinj : Function.Injective (algebraMap R S)) {v : ι → M} (li : LinearIndependent S v) :
-    LinearIndependent R v :=
```
Comment (b-mehta) [inline Mathlib/LinearAlgebra/FreeModule/PID.lean:663]: Please don't forget to add deprecations for deletions in the future!

Comment (ocfnash) [reply Mathlib/LinearAlgebra/FreeModule/PID.lean:663]: Thanks for the reminder @b-mehta I will be stricter in future.

I presume you're commenting because you were bitten in a downstream project: many apologies!
